US08334292B1
Step 3: Preparation of N-(cis-4-methylcyclohexyl)-4-(1-(methylsulfonyl)azetidin-3-yloxy)-5-(4-((S)-tetrahydrofuran-3-yloxy)phenyl)pyrimidin-2-amine
Using the procedure of Example 1 Step 3, 5-bromo-N-(cis-4-methylcyclohexyl)-4-(1-(methylsulfonyl)azetidin-3-yloxy)pyrimidin-2-amine was reacted with (S)-4,4,5,5-tetramethyl-2-(4-(tetrahydrofuran-3-yloxy)phenyl)-1,3,2-dioxaborolane to provide the title compound (105 mg, 46% yield). 1H NMR (CDCl3, 400 MHz) 8.12 (s, 1H), 7.38 (m, 2H), 6.91 (m, 2H), 5.34 (m, 1H), 5.20 (sb, 1H), 4.95 (m, 1H), 4.31 (m, 2H), 4.09-3.92 (m, 6H), 2.90 (s, 3H), 2.22 (m, 2H), 1.80-1.57 (m, 6H), 1.23 (m, 2H), 0.94 (d, 3H). MS (ESI) m/z: Calc. 502.2 (M+). Found: 503.1 (M++1).

reactant | 5-bromo-N-(cis-4-methylcyclohexyl)-4-(1-(methylsulfonyl)azetidin-3-yloxy)pyrimidin-2-amine | BrC=1C(=NC(=NC1)N[C@@H]1CC[C@@H](CC1)C)OC1CN(C1)S(=O)(=O)C | C15H23BrN4O3S
reactant | (S)-4,4,5,5-tetramethyl-2-(4-(tetrahydrofuran-3-yloxy)phenyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O[C@@H]1COCC1)C | C16H23BO4
product | N-(cis-4-methylcyclohexyl)-4-(1-(methylsulfonyl)azetidin-3-yloxy)-5-(4-((S)-tetrahydrofuran-3-yloxy)phenyl)pyrimidin-2-amine | 105 mg, 46% yield | C[C@H]1CC[C@H](CC1)NC1=NC=C(C(=N1)OC1CN(C1)S(=O)(=O)C)C1=CC=C(C=C1)O[C@@H]1COCC1 | C25H34N4O5S
